US07507729B2
a) [1,2,3]Triazol-1-yl-acetic acid hydrazide
As described for example 112a, [1,2,3]triazol-1-yl-acetic acid ethyl ester in ethanol was reacted with hydrazine hydrate (2 equivalents) and the resulting mixture heated under reflux for 3 h. The mixture was cooled to 4° C. and the precipitated product was filtered off and dried to afford the title compound as a white solid (yield: 73%). MS: m/e=141.2[M]+.

reactant | [1,2,3]triazol-1-yl-acetic acid ethyl ester | C(C)OC(CN1N=NC=C1)=O | C6H9N3O2
reactant | hydrazine hydrate | 2 equivalents | O.NN
solvent | ethanol | C(C)O | C2H6O
product | [1,2,3]Triazol-1-yl-acetic acid hydrazide | yield: 73% | N1(N=NC=C1)CC(=O)NN | C4H7N5O
